US06277862B1
(S)-N-(α-ethylbenzyl)-3-(aminocarbonylmethoxy)-2-phenyquinoline-4-carboxamide
0.5 g (1.3 mmol) of (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide (compound of Description 1) were dissolved, under nitrogen atmosphere and magnetic stirring, in 5 ml of THF; 0.5 g (3.6 mmol) of K2CO3, 0.27 g (1.9 mmol) of 2-bromoacetamide and a small amount of KI were added. The reaction mixture was left overnight under magnetical stirring; the precipitate was filtered off and the residue dissolved in H2O and extracted with EtOAc; the organic layer was washed with sat. sol. NaCl, dried over Na2SO4 and evaporated in-vacuo to dryness. The crude product was triturated with hexane and then recrystallized form EtOH to yield 0.29 g of the title compound as a white solid.

reactant | (S)-N-(α-ethylbenzyl)-3-hydroxy-2-phenylquinoline-4-carboxamide | 1.3 mmol, 0.5 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)O | C25H22N2O2
reactant | K2CO3 | 3.6 mmol, 0.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoacetamide | 1.9 mmol, 0.27 g | BrCC(=O)N | C2H4BrNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-N-(α-ethylbenzyl)-3-(aminocarbonylmethoxy)-2-phenyquinoline-4-carboxamide | 0.29 g | C(C)[C@@H](C1=CC=CC=C1)NC(=O)C1=C(C(=NC2=CC=CC=C12)C1=CC=CC=C1)OCC(=O)N | C27H25N3O3
